US05942507
Synthesis of N-Propyl-α-(2-sulfofuran-5-yl)nitrone
Following the procedure of Example 1 above and using 5-formylfuran-2-sulfonic acid, sodium salt hydrate and N-propylhydroxylamine, the title compound was prepared in 41% yield as the sodium salt, m.p. 230-233° C. (dec.).

reactant | 5-formylfuran-2-sulfonic acid | C(=O)C1=CC=C(O1)S(=O)(=O)O | C5H4O5S
reactant | sodium | [Na] | Na
reactant | N-propylhydroxylamine | C(CC)NO | C3H9NO
product | N-Propyl-α-(2-sulfofuran-5-yl)nitrone | 41% yield | C(CC)[N+](=CC1=CC=C(O1)S(=O)(=O)O)[O-] | C8H11NO5S
